* source ALU
.EXTERNAL INPUT P0
.EXTERNAL INPUT C-1
.EXTERNAL INPUT G0
.EXTERNAL INPUT G1
.EXTERNAL INPUT G2
.EXTERNAL INPUT G3
.EXTERNAL INPUT P1
.EXTERNAL INPUT P2
.EXTERNAL INPUT P3
.EXTERNAL INPUT VDC
.EXTERNAL INPUT GND
.EXTERNAL OUTPUT C3
.EXTERNAL OUTPUT C0
.EXTERNAL OUTPUT C1
.EXTERNAL OUTPUT C2
M_C3_AND5_M11         C3_AND5_OUT_NAND5 P2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND5_M3         C3_P3210C_1 C3_AND5_OUT_NAND5 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND5_M10         C3_AND5_N10854 P3 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND5_M5         C3_AND5_OUT_NAND5 C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND5_M7         C3_AND5_N10634 P1 C3_AND5_N10902 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND5_M12         C3_AND5_OUT_NAND5 P3 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND5_M6         C3_AND5_OUT_NAND5 P0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND5_M4         C3_P3210C_1 C3_AND5_OUT_NAND5 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND5_M9         C3_AND5_N10902 P2 C3_AND5_N10854 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND5_M8         C3_AND5_OUT_NAND5 P1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND5_M1         C3_AND5_OUT_NAND5 P0 C3_AND5_N10560 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND5_M2         C3_AND5_N10560 C-1 C3_AND5_N10634 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_OR5_M8         C3_OR5_OUT_NOR C3_P3G2 C3_OR5_N16503 C3_OR5_N16271 MbreakP 
+  
+ L=2e-6  
+ W=9e-6         
M_C3_OR5_M16         C3_OR5_OUT_NOR C3_P3G2 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_OR5_M15         C3_OR5_N16345 C3_P3210C_1 C3_OR5_N16271 C3_OR5_N16271
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_OR5_M12         C3_OR5_OUT_NOR C3_P32G1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_OR5_M17         C3_OR5_N16271 G3 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_OR5_M10         C3_OR5_OUT_NOR C3_P321G0 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_OR5_M18         C3_OR5_OUT_NOR G3 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_OR5_M14         C3_OR5_N16403 C3_P321G0 C3_OR5_N16345 C3_OR5_N16271
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_OR5_M9         C3 C3_OR5_OUT_NOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_OR5_M7         C3_OR5_N16503 C3_P32G1 C3_OR5_N16403 C3_OR5_N16271 MbreakP 
+  
+ L=2e-6  
+ W=9e-6         
M_C3_OR5_M11         C3 C3_OR5_OUT_NOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_OR5_M13         C3_OR5_OUT_NOR C3_P3210C_1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND4_M6         C3_AND4_OUT_NAND5 P3 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND4_M1         C3_AND4_OUT_NAND5 P3 C3_AND4_N13314 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND4_M2         C3_AND4_N13314 P2 C3_AND4_N13388 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND4_M8         C3_AND4_OUT_NAND5 P1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND4_M9         C3_AND4_N13432 G0 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND4_M3         C3_P321G0 C3_AND4_OUT_NAND5 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND4_M11         C3_AND4_OUT_NAND5 G0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND4_M7         C3_AND4_N13388 P1 C3_AND4_N13432 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND4_M5         C3_AND4_OUT_NAND5 P2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND4_M4         C3_P321G0 C3_AND4_OUT_NAND5 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND3_M2         C3_AND3_N05922 P2 C3_AND3_N07754 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND3_M7         C3_AND3_N07754 G1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND3_M6         C3_AND3_N05774 P3 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND3_M3         C3_P32G1 C3_AND3_N05774 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND3_M8         C3_AND3_N05774 G1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND3_M1         C3_AND3_N05774 P3 C3_AND3_N05922 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND3_M4         C3_P32G1 C3_AND3_N05774 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND3_M5         C3_AND3_N05774 P2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND2_M6         C3_AND2_A_NAND_B G2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND2_M2         C3_AND2_N03392 P3 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND2_M3         C3_P3G2 C3_AND2_A_NAND_B GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C3_AND2_M4         C3_P3G2 C3_AND2_A_NAND_B VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND2_M5         C3_AND2_A_NAND_B P3 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C3_AND2_M1         C3_AND2_A_NAND_B G2 C3_AND2_N03392 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND2_M6         C2_BLOCK_AND2_A_NAND_B G1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND2_M2         C2_BLOCK_AND2_N03392 P2 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND2_M3         C2_BLOCK_P2G1 C2_BLOCK_AND2_A_NAND_B GND GND MbreakN
+   
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND2_M4         C2_BLOCK_P2G1 C2_BLOCK_AND2_A_NAND_B VDC VDC MbreakP
+   
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND2_M5         C2_BLOCK_AND2_A_NAND_B P2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND2_M1         C2_BLOCK_AND2_A_NAND_B G1 C2_BLOCK_AND2_N03392 GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_OR4_M16         C2_BLOCK_OR4_OUT_NOR G2 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_OR4_M9         C2 C2_BLOCK_OR4_OUT_NOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_OR4_M13         C2_BLOCK_OR4_OUT_NOR C2_BLOCK_P210C-1 GND GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_OR4_M10         C2_BLOCK_OR4_OUT_NOR C2_BLOCK_P21G0 GND GND MbreakN 
+  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_OR4_M15         C2_BLOCK_OR4_N14607 C2_BLOCK_P210C-1 VDC VDC MbreakP
+   
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_OR4_M8         C2_BLOCK_OR4_OUT_NOR G2 C2_BLOCK_OR4_N13569 VDC
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_OR4_M12         C2_BLOCK_OR4_OUT_NOR C2_BLOCK_P2G1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_OR4_M7         C2_BLOCK_OR4_N13569 C2_BLOCK_P2G1 C2_BLOCK_OR4_N14683
+  VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_OR4_M11         C2 C2_BLOCK_OR4_OUT_NOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_OR4_M14         C2_BLOCK_OR4_N14683 C2_BLOCK_P21G0
+  C2_BLOCK_OR4_N14607 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND3_M2         C2_BLOCK_AND3_N05922 P1 C2_BLOCK_AND3_N07754 GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND3_M7         C2_BLOCK_AND3_N07754 G0 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND3_M6         C2_BLOCK_AND3_N05774 P2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND3_M3         C2_BLOCK_P21G0 C2_BLOCK_AND3_N05774 GND GND MbreakN 
+  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND3_M8         C2_BLOCK_AND3_N05774 G0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND3_M1         C2_BLOCK_AND3_N05774 P2 C2_BLOCK_AND3_N05922 GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND3_M4         C2_BLOCK_P21G0 C2_BLOCK_AND3_N05774 VDC VDC MbreakP 
+  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND3_M5         C2_BLOCK_AND3_N05774 P1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND4_M6         C2_BLOCK_AND4_OUT_NAND5 P0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND4_M1         C2_BLOCK_AND4_OUT_NAND5 P0 C2_BLOCK_AND4_N13314 GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND4_M2         C2_BLOCK_AND4_N13314 C-1 C2_BLOCK_AND4_N13388 GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND4_M8         C2_BLOCK_AND4_OUT_NAND5 P1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND4_M9         C2_BLOCK_AND4_N13432 P2 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND4_M3         C2_BLOCK_P210C-1 C2_BLOCK_AND4_OUT_NAND5 GND GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND4_M11         C2_BLOCK_AND4_OUT_NAND5 P2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND4_M7         C2_BLOCK_AND4_N13388 P1 C2_BLOCK_AND4_N13432 GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C2_BLOCK_AND4_M5         C2_BLOCK_AND4_OUT_NAND5 C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C2_BLOCK_AND4_M4         C2_BLOCK_P210C-1 C2_BLOCK_AND4_OUT_NAND5 VDC VDC
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_AND3_M2         C1_BLOCK_AND3_N05922 C-1 C1_BLOCK_AND3_N07754 GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_AND3_M7         C1_BLOCK_AND3_N07754 P1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_AND3_M6         C1_BLOCK_AND3_N05774 P0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_AND3_M3         C1_BLOCK_P10C-1 C1_BLOCK_AND3_N05774 GND GND MbreakN
+   
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_AND3_M8         C1_BLOCK_AND3_N05774 P1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_AND3_M1         C1_BLOCK_AND3_N05774 P0 C1_BLOCK_AND3_N05922 GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_AND3_M4         C1_BLOCK_P10C-1 C1_BLOCK_AND3_N05774 VDC VDC MbreakP
+   
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_AND3_M5         C1_BLOCK_AND3_N05774 C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_AND2_M6         C1_BLOCK_AND2_A_NAND_B P1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_AND2_M2         C1_BLOCK_AND2_N03392 G0 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_AND2_M3         C1_BLOCK_P1G0 C1_BLOCK_AND2_A_NAND_B GND GND MbreakN
+   
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_AND2_M4         C1_BLOCK_P1G0 C1_BLOCK_AND2_A_NAND_B VDC VDC MbreakP
+   
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_AND2_M5         C1_BLOCK_AND2_A_NAND_B G0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_AND2_M1         C1_BLOCK_AND2_A_NAND_B P1 C1_BLOCK_AND2_N03392 GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_OR3_M14         C1_BLOCK_OR3_N16403 C1_BLOCK_P1G0
+  C1_BLOCK_OR3_N16345 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_OR3_M12         C1_BLOCK_OR3_OUT_NOR G1 C1_BLOCK_N08057
+  C1_BLOCK_N08057 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_OR3_M9         C1 C1_BLOCK_OR3_OUT_NOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_OR3_M13         C1_BLOCK_OR3_OUT_NOR C1_BLOCK_P10C-1 C1_BLOCK_N08057
+  C1_BLOCK_N08057 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_OR3_M15         C1_BLOCK_OR3_N16345 C1_BLOCK_P10C-1 VDC VDC MbreakP 
+  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_OR3_M11         C1 C1_BLOCK_OR3_OUT_NOR C1_BLOCK_N08057
+  C1_BLOCK_N08057 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C1_BLOCK_OR3_M7         C1_BLOCK_OR3_OUT_NOR G1 C1_BLOCK_OR3_N16403 VDC
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C1_BLOCK_OR3_M10         C1_BLOCK_OR3_OUT_NOR C1_BLOCK_P1G0 C1_BLOCK_N08057
+  C1_BLOCK_N08057 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C0_BLOCK_AND_C0_M6         C0_BLOCK_AND_C0_A_NAND_B P0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C0_BLOCK_AND_C0_M2         C0_BLOCK_AND_C0_N03392 C-1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C0_BLOCK_AND_C0_M3         C0_BLOCK_N00381 C0_BLOCK_AND_C0_A_NAND_B GND GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C0_BLOCK_AND_C0_M4         C0_BLOCK_N00381 C0_BLOCK_AND_C0_A_NAND_B VDC VDC
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C0_BLOCK_AND_C0_M5         C0_BLOCK_AND_C0_A_NAND_B C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C0_BLOCK_AND_C0_M1         C0_BLOCK_AND_C0_A_NAND_B P0 C0_BLOCK_AND_C0_N03392
+  GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C0_BLOCK_OR_C0_M7         C0_BLOCK_OR_C0_N10570 C0_BLOCK_N00381 VDC VDC
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C0_BLOCK_OR_C0_M8         C0_BLOCK_OR_C0_OUT_NOR G0 C0_BLOCK_OR_C0_N10570 VDC
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C0_BLOCK_OR_C0_M12         C0_BLOCK_OR_C0_OUT_NOR G0 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C0_BLOCK_OR_C0_M11         C0 C0_BLOCK_OR_C0_OUT_NOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_C0_BLOCK_OR_C0_M9         C0 C0_BLOCK_OR_C0_OUT_NOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_C0_BLOCK_OR_C0_M10         C0_BLOCK_OR_C0_OUT_NOR C0_BLOCK_N00381 GND GND
+  MbreakN  
+ L=2e-6  
+ W=3e-6         
