* source ALU
.EXTERNAL OUTPUT A0
.EXTERNAL OUTPUT A1
.EXTERNAL OUTPUT A2
.EXTERNAL OUTPUT A3
.EXTERNAL OUTPUT A4
.EXTERNAL OUTPUT A5
.EXTERNAL OUTPUT A6
.EXTERNAL OUTPUT A7
.EXTERNAL INPUT C-1
.EXTERNAL INPUT VDC
.EXTERNAL INPUT IN_A0
.EXTERNAL INPUT IN_A1
.EXTERNAL INPUT IN_A2
.EXTERNAL INPUT IN_A3
.EXTERNAL INPUT IN_A4
.EXTERNAL INPUT IN_A5
.EXTERNAL INPUT IN_A6
.EXTERNAL INPUT IN_A7
.EXTERNAL INPUT GND
M_A5_M104         A5_OUT1_XNOR A5_IN2_INV A5_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A5_M6         A5_IN2_INV IN_A5 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A5_M3         A5_OUT1_XNOR C-1 A5_N14660 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A5_M101         A5_N14272 A5_IN1_INV VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A5_M9         A5_IN1_INV C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A5_M107         A5 A5_OUT1_XNOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A5_M108         A5 A5_OUT1_XNOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A5_M102         A5_N14272 IN_A5 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A5_M2         A5_N14654 IN_A5 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A5_M105         A5_OUT1_XNOR C-1 A5_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A5_M1         A5_OUT1_XNOR A5_IN1_INV A5_N14654 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A5_M5         A5_IN1_INV C-1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A5_M106         A5_IN2_INV IN_A5 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A5_M4         A5_N14660 A5_IN2_INV GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A1_M104         A1_OUT1_XNOR A1_IN2_INV A1_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A1_M6         A1_IN2_INV IN_A1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A1_M3         A1_OUT1_XNOR C-1 A1_N14660 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A1_M101         A1_N14272 A1_IN1_INV VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A1_M9         A1_IN1_INV C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A1_M107         A1 A1_OUT1_XNOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A1_M108         A1 A1_OUT1_XNOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A1_M102         A1_N14272 IN_A1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A1_M2         A1_N14654 IN_A1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A1_M105         A1_OUT1_XNOR C-1 A1_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A1_M1         A1_OUT1_XNOR A1_IN1_INV A1_N14654 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A1_M5         A1_IN1_INV C-1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A1_M106         A1_IN2_INV IN_A1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A1_M4         A1_N14660 A1_IN2_INV GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A3_M104         A3_OUT1_XNOR A3_IN2_INV A3_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A3_M6         A3_IN2_INV IN_A3 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A3_M3         A3_OUT1_XNOR C-1 A3_N14660 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A3_M101         A3_N14272 A3_IN1_INV VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A3_M9         A3_IN1_INV C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A3_M107         A3 A3_OUT1_XNOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A3_M108         A3 A3_OUT1_XNOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A3_M102         A3_N14272 IN_A3 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A3_M2         A3_N14654 IN_A3 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A3_M105         A3_OUT1_XNOR C-1 A3_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A3_M1         A3_OUT1_XNOR A3_IN1_INV A3_N14654 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A3_M5         A3_IN1_INV C-1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A3_M106         A3_IN2_INV IN_A3 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A3_M4         A3_N14660 A3_IN2_INV GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A6_M104         A6_OUT1_XNOR A6_IN2_INV A6_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A6_M6         A6_IN2_INV IN_A6 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A6_M3         A6_OUT1_XNOR C-1 A6_N14660 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A6_M101         A6_N14272 A6_IN1_INV VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A6_M9         A6_IN1_INV C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A6_M107         A6 A6_OUT1_XNOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A6_M108         A6 A6_OUT1_XNOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A6_M102         A6_N14272 IN_A6 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A6_M2         A6_N14654 IN_A6 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A6_M105         A6_OUT1_XNOR C-1 A6_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A6_M1         A6_OUT1_XNOR A6_IN1_INV A6_N14654 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A6_M5         A6_IN1_INV C-1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A6_M106         A6_IN2_INV IN_A6 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A6_M4         A6_N14660 A6_IN2_INV GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A4_M104         A4_OUT1_XNOR A4_IN2_INV A4_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A4_M6         A4_IN2_INV IN_A4 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A4_M3         A4_OUT1_XNOR C-1 A4_N14660 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A4_M101         A4_N14272 A4_IN1_INV VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A4_M9         A4_IN1_INV C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A4_M107         A4 A4_OUT1_XNOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A4_M108         A4 A4_OUT1_XNOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A4_M102         A4_N14272 IN_A4 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A4_M2         A4_N14654 IN_A4 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A4_M105         A4_OUT1_XNOR C-1 A4_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A4_M1         A4_OUT1_XNOR A4_IN1_INV A4_N14654 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A4_M5         A4_IN1_INV C-1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A4_M106         A4_IN2_INV IN_A4 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A4_M4         A4_N14660 A4_IN2_INV GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A0_M104         A0_OUT1_XNOR A0_IN2_INV A0_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A0_M6         A0_IN2_INV IN_A0 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A0_M3         A0_OUT1_XNOR C-1 A0_N14660 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A0_M101         A0_N14272 A0_IN1_INV VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A0_M9         A0_IN1_INV C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A0_M107         A0 A0_OUT1_XNOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A0_M108         A0 A0_OUT1_XNOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A0_M102         A0_N14272 IN_A0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A0_M2         A0_N14654 IN_A0 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A0_M105         A0_OUT1_XNOR C-1 A0_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A0_M1         A0_OUT1_XNOR A0_IN1_INV A0_N14654 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A0_M5         A0_IN1_INV C-1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A0_M106         A0_IN2_INV IN_A0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A0_M4         A0_N14660 A0_IN2_INV GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A2_M104         A2_OUT1_XNOR A2_IN2_INV A2_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A2_M6         A2_IN2_INV IN_A2 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A2_M3         A2_OUT1_XNOR C-1 A2_N14660 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A2_M101         A2_N14272 A2_IN1_INV VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A2_M9         A2_IN1_INV C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A2_M107         A2 A2_OUT1_XNOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A2_M108         A2 A2_OUT1_XNOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A2_M102         A2_N14272 IN_A2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A2_M2         A2_N14654 IN_A2 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A2_M105         A2_OUT1_XNOR C-1 A2_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A2_M1         A2_OUT1_XNOR A2_IN1_INV A2_N14654 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A2_M5         A2_IN1_INV C-1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A2_M106         A2_IN2_INV IN_A2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A2_M4         A2_N14660 A2_IN2_INV GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A7_M104         A7_OUT1_XNOR A7_IN2_INV A7_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A7_M6         A7_IN2_INV IN_A7 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A7_M3         A7_OUT1_XNOR C-1 A7_N14660 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A7_M101         A7_N14272 A7_IN1_INV VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A7_M9         A7_IN1_INV C-1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A7_M107         A7 A7_OUT1_XNOR VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A7_M108         A7 A7_OUT1_XNOR GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A7_M102         A7_N14272 IN_A7 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A7_M2         A7_N14654 IN_A7 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A7_M105         A7_OUT1_XNOR C-1 A7_N14272 VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A7_M1         A7_OUT1_XNOR A7_IN1_INV A7_N14654 GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A7_M5         A7_IN1_INV C-1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_A7_M106         A7_IN2_INV IN_A7 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_A7_M4         A7_N14660 A7_IN2_INV GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
